US07829585B2
2-Amino-6-methoxymethyl-nicotinic acid
To a mixture of 2-amino-6-methoxymethyl-nicotinic acid methyl ester (2.9 g, 15 mmol) described in Production Example 4-1-4, tetrahydrofuran (30 mL), methanol (7.5 mL) and water (7.5 ml) was added sodium hydroxide monohydrate (1.2 g, 29 mmol), which was stirred overnight at room temperature. To the reaction mixture was added acetic acid (1.7 mL, 29 mmol), followed by distilling off the solvent under a reduced pressure. The residue was dissolved in methanol/ethyl acetate (1/3) and filtered using silica gel. The filtrate was collected, concentrated under a reduced pressure and the residue was washed with water to obtain the title compound (2.1 g, 12 mmol, 80%) as a pale yellow solid.

reactant | 2-amino-6-methoxymethyl-nicotinic acid methyl ester | 15 mmol, 2.9 g | COC(C1=C(N=C(C=C1)COC)N)=O | C9H12N2O3
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide monohydrate | 29 mmol, 1.2 g | O.[OH-].[Na+]
reactant | acetic acid | 29 mmol, 1.7 mL | C(C)(=O)O | C2H4O2
solvent | water | 7.5 ml | O | H2O
solvent | methanol | 7.5 mL | CO | CH4O
product | 2-Amino-6-methoxymethyl-nicotinic acid | 12 mmol, 2.1 g, 80% | NC1=C(C(=O)O)C=CC(=N1)COC | C8H10N2O3
